US05220042
402 Milligrams of 4,4'-pentamethylenebis[1-(2-hydroxyethyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene] was dissolved in a mixed solvent of 4 ml of tetrahydrofuran with 4 ml of isopropanol, under ice-cooling conditions, 0.8 ml of tetrahydrofuran-isopropanol (1:1) solution containing 20% of hydrogen chloride was added thereto. The reaction mixture was heated at 50° C. on a water bath for 5 hours with stirring. The reaction mixture was concentrated, and to the residue obtained was added 10 ml of methanol and a small amount of sodium hydrogen carbonate, then whole mixture was heated at 50 to 60° C., on a water bath and oxygen gas was blown into the reaction mixture for 5 hours. After the reaction was completed, the reaction mixture was filtered, and concentrated, the residue obtained was treated by means of a preparative thin layer chromatography (silica gel plate: 20×20 cm, thickness 2 mm, 2 plates were used, developing solvent: ethyl acetate:benzene=1:1), then recrystallized from petroleum ether to obtain 305 mg of 5,5'-pentamethylenebis[2-(2-hydroxyethyl)-3,6-dimethoxy-1,4-benzoquinone] was obtained. Yellow needles crystals.

reactant | 4,4'-pentamethylenebis[1-(2-hydroxyethyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene] | OCCC1=C(C(=C(C(=C1OCOC)OC)CCCCCC1=C(C(=C(C(=C1OC)OCOC)CCO)OC)OCOC)OCOC)OC | C33H52O14
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | oxygen | O=O | O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | isopropanol | 4 ml | C(C)(C)O | C3H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran isopropanol | 0.8 ml | O1CCCC1.C(C)(C)O
product | 5,5'-pentamethylenebis[2-(2-hydroxyethyl)-3,6-dimethoxy-1,4-benzoquinone] | 305 mg | OCCC=1C(C(=C(C(C1OC)=O)CCCCCC=1C(C(=C(C(C1OC)=O)CCO)OC)=O)OC)=O | C25H32O10
